datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc2c(c1)NCC[NH+:21]2[H:20].Cn1c[n:10]c2c(N)nc[nH+]c21>>Cc1ccc2c(c1)NCC[NH:21]2.Cn1c[n+:10]([H:20])c2c(N)nc[nH+]c21 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCCCCC.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCCCCC)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C1CNCCSCC[NH:10]C1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CNCCSCC[NH+:10]([H:20])C1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2[nH]c(C[NH2:10])nc2c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2[nH]c(C[NH2+:10][H:20])nc2c1 10=20;20,21=21",
"CC[N:10](CC)CC(=O)Nc1cc(C)ccc1C.Oc1cccc2c1-c1c-2cccc1[O:21][H:20]>>CC[N+:10](CC)(CC(=O)Nc1cc(C)ccc1C)[H:20].Oc1cccc2c1-c1c-2cccc1[O-:21] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCNC(=O)/C=N/[O-]>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCNC(=O)/C=N/[O-])[H:20] 10=20;20,21=21",
"COc1nc(N)c2[nH]cnc2[n:10]1.O=C(c1ccc([N+](=O)[O-])o1)[O:21][H:20]>>COc1nc(N)c2[nH]cnc2[n+:10]1[H:20].O=C(c1ccc([N+](=O)[O-])o1)[O-:21] 10=20;20,21=21",
"Cc1cc(C)c(C(C(=O)[O:21][H:20])c2ccccc2)c(C)c1.[O-][n+]1cnc([N-:10]Cc2ccccc2)c2nc[nH]c21>>Cc1cc(C)c(C(C(=O)[O-:21])c2ccccc2)c(C)c1.[O-][n+]1cnc([N:10](Cc2ccccc2)[H:20])c2nc[nH]c21 10=20;20,21=21",
"CN1CCCCCC[N:10](C)CCCCCC1.c1cc(-c2nnn[n:21]2[H:20])ccc1-c1nnn[nH]1>>CN1CCCCCC[N+:10](C)([H:20])CCCCCC1.c1cc(-c2nnn[n-:21]2)ccc1-c1nnn[nH]1 10=20;20,21=21",
"Cc1cc(N[NH2:10])nc2ccccc12.Cc1cccc(C=O)[n+:21]1[H:20]>>Cc1cc(N[NH2+:10][H:20])nc2ccccc12.Cc1cccc(C=O)[n:21]1 10=20;20,21=21",
"CC(C[NH:10]C)c1ccccc1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C[NH+:10](C)[H:20])c1ccccc1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C#CC(C)(C)[NH:10]C(C)(C)C=C.C=CC[N+:21](CC=C)(CC=C)[H:20]>>C#CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].C=CC[N:21](CC=C)CC=C 10=20;20,21=21",
"Cc1c(O)cccc1C(=O)[O:21][H:20].O=C1OC(=O)[N-:10]c2ccccc21>>Cc1c(O)cccc1C(=O)[O-:21].O=C1OC(=O)[N:10]([H:20])c2ccccc21 10=20;20,21=21",
"CCCCCCC[NH:10]Cc1ccc(C)cc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC#CC#CCCCCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC#CC#CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC(C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Clc1ccnc2c1ccc1c(Cl)cc[n:10]c12.Nc1cc[nH+]c([S-])[n+:21]1[H:20]>>Clc1ccnc2c1ccc1c(Cl)cc[n+:10]([H:20])c12.Nc1cc[nH+]c([S-])[n:21]1 10=20;20,21=21",
"CCC(=NO)[N:21](O)[H:20].O=C([O-])c1cc2ccccc2cc1[O-:10]>>CCC(=NO)[N-:21]O.O=C([O-])c1cc2ccccc2cc1[O:10][H:20] 10=20;20,21=21",
"Cc1c(CO)cc(C)[n+:21]([H:20])c1C.O=C(CC1CCCCC1)[O-:10]>>Cc1c(CO)cc(C)[n:21]c1C.O=C(CC1CCCCC1)[O:10][H:20] 10=20;20,21=21",
"O=C(NCC[NH:21][H:20])c1ccccc1.O=C1[C@H]2CCC[C@H]2C(=O)[N-:10]1>>O=C(NCC[NH-:21])c1ccccc1.O=C1[C@H]2CCC[C@H]2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O:21][H:20].Clc1nnn[n-:10]1>>CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O-:21].Clc1nnn[n:10]1[H:20] 10=20;20,21=21",
"CC(=O)[N-:10]Br.Nc1ccc2[nH]c(CCc3ccccc3)[n+:21]([H:20])c2c1>>CC(=O)[N:10](Br)[H:20].Nc1ccc2[nH]c(CCc3ccccc3)[n:21]c2c1 10=20;20,21=21",
"CCC[NH:10]C(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCC[NH+:10](C(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC[N:10](CC)Cc1ccccc1O.Cc1cc(O)c(C(C)C)cc1Nc1ccc([O:21][H:20])cc1>>CC[N+:10](CC)(Cc1ccccc1O)[H:20].Cc1cc(O)c(C(C)C)cc1Nc1ccc([O-:21])cc1 10=20;20,21=21",
"CC/C=C/CC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O-:10].O=S(Cc1ccccc1)c1cnn[n:21]1[H:20]>>CC/C=C/CC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O:10][H:20].O=S(Cc1ccccc1)c1cnn[n-:21]1 10=20;20,21=21",
"CSc1nc(N)c2c(nc[n-:10]2)n1.O=[N+]([O-])c1ccccc1[NH2+:21][H:20]>>CSc1nc(N)c2c(nc[n:10]2[H:20])n1.O=[N+]([O-])c1ccccc1[NH2:21] 10=20;20,21=21",
"Brc1cccc[n:10]1.Nc1ccc(S(=O)(=O)[N:21](c2cncnc2)[H:20])cc1>>Brc1cccc[n+:10]1[H:20].Nc1ccc(S(=O)(=O)[N-:21]c2cncnc2)cc1 10=20;20,21=21",
"CCc1ccc(C)n[n:10]1.Cc1csc(S(=O)(=O)[NH:21][H:20])n1>>CCc1ccc(C)n[n+:10]1[H:20].Cc1csc(S(=O)(=O)[NH-:21])n1 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c(C[NH2+:21][H:20])c1.O=C(C1=CC=C[Se]1)[O-:10]>>COc1ccc([N+](=O)[O-])c(C[NH2:21])c1.O=C(C1=CC=C[Se]1)[O:10][H:20] 10=20;20,21=21",
"C=C(C)C(C)=C(C)[O:21][H:20].c1ccc(-c2nc3ccccc3[n-:10]2)nc1>>C=C(C)C(C)=C(C)[O-:21].c1ccc(-c2nc3ccccc3[n:10]2[H:20])nc1 10=20;20,21=21",
"C[C@@H]1C[NH:10][C@@H](C)CN1.Cc1ncc(C)[n+:21]([H:20])c1C>>C[C@@H]1C[NH+:10]([H:20])[C@@H](C)CN1.Cc1ncc(C)[n:21]c1C 10=20;20,21=21",
"O=C(O[O-:10])c1ccccc1.O=S(=O)(c1cccc(C(F)(F)F)c1)[O:21][H:20]>>O=C(O[O:10][H:20])c1ccccc1.O=S(=O)(c1cccc(C(F)(F)F)c1)[O-:21] 10=20;20,21=21",
